US07902356B2
tert-Butyl-(2-methoxy-4-nitro-phenoxy)-dimethyl-silane
Add tert-butyl-dimethylsilylchloride (14 g, 90 mmol) to a solution of 4-nitroguaiacol (5 g, 30 mmol) in DMF (250 mL) and then add imidazole (6.13 g, 90 mmol). Stir the mixture at room temperature for 16 h. Quench the reaction mixture with water (150 mL). Extract with diethyl ether (3×200 mL). Wash the combined organic portions with water, brine, and dry over MgSO4. Filter and concentrate to a residue. Purify the residue by silica gel flash chromatography, eluting with 15% ethylacetate:hexanes to give the title compound (8.053 g, 95%) as a pale yellow oil. MS (ES+) 284.1 (M+1)+. 1H NMR (CDCl3): δ 7.79 (dd, J=7.8 Hz, 2.7 Hz, 1H), 7.26 (d, J=2.7 Hz, 1H), 6.69 (d, J=7.8 Hz 1H), 3.85 (s, 3H), 0.96 (s, 9H), 0.18 (s, 6H).

reactant | tert-butyl-dimethylsilylchloride | 90 mmol, 14 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4-nitroguaiacol | 30 mmol, 5 g | [N+](=O)([O-])C=1C=C(C(=CC1)OC)O | C7H7NO4
reactant | imidazole | 90 mmol, 6.13 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | tert-Butyl-(2-methoxy-4-nitro-phenoxy)-dimethyl-silane | 8.053 g, 95% | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1)[N+](=O)[O-])OC | C13H21NO4Si
